US04197298
To 200 ml of water is added 38 g of sodium nitrite together with 53 g of methyl acetoacetate, followed by dropwise addition of 200 ml of 4 N-sulfuric acid under ice-cooling and stirring over a period of about an hour. During this period, the temperature of the reaction mixture is maintained at 5° to 8° C. The mixture is further stirred within this temperature range for 2.5 hours, at the end of which time it is extracted twice with each 300 ml of ethyl acetate. The extracts are washed twice with a saturated aqueous solution of sodium chloride. Then, a solution of 96.7 g of sodium carbonate in 1 l of water is divided in three parts, which are used to extract methyl 3-oxo-2-hydroxyiminobutyrate from the ethyl acetate layer previously obtained as above (3 times). To the water layer (1 l) was added 200 ml of methanol and, under ice-cooling and stirring, 150 g of dimethyl sulfate is added dropwise over a period of 10 minutes. After the dropwise addition has been completed, the mixture is stirred at room temperature for 1.5 hours. It is then extracted twice with each 300 ml of ethyl acetate, dried and distilled to remove the ethyl acetate. The residue is cooled with ice, whereupon it solidifies. This solid is collected by filtration and rinsed with a small quantity of water. By the above procedure is obtained 52.3 g of methyl 3-oxo-2-methoxyiminobutyrate as white crystals melting at 64.4° C.

reactant | water | 200 ml | O | H2O
reactant | sodium nitrite | 38 g | N(=O)[O-].[Na+]
reactant | methyl acetoacetate | 53 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | water | 1 l | O | H2O
reactant | dimethyl sulfate | 150 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methanol | 200 ml | CO | CH4O
product | methyl 3-oxo-2-methoxyiminobutyrate | 52.3 g | O=C(C(C(=O)OC)=NOC)C | C6H9NO4
